US05310920
A mixture comprising 2.8 g of 1-(2-phenoxyvinyl)2-nitroiminoimidazolidine, 3.6 g of 2-chloro-5chloromethylpyridine, 3.2 g of potassium carbonate and 15 ml of dimethylsulfoxide was stirred at 70° C. for one hour. The reaction mixture was poured into water, extracted with ethyl acetate, washed with water, dried (with anhydrous MgSO4) and concentrated to give an oily residue. This was purified by column chromatography (silica gel, eluet: ethyl acetate) to give 3.0 g of 1-(2-chloropyridin-5-ylmethyl)-2-nitroimino-3-(2-phenoxyvinyl)-imidazolidine.

reactant | 1-(2-phenoxyvinyl)2-nitroiminoimidazolidine | 2.8 g | O(C1=CC=CC=C1)C=CN1C(NCC1)=N[N+](=O)[O-] | C11H12N4O3
reactant | 2-chloro-5chloromethylpyridine | 3.6 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | potassium carbonate | 3.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-(2-chloropyridin-5-ylmethyl)-2-nitroimino-3-(2-phenoxyvinyl)-imidazolidine | 3.0 g | ClC1=NC=C(C=C1)CN1C(N(CC1)C=COC1=CC=CC=C1)=N[N+](=O)[O-] | C17H16ClN5O3
